US05468641
a) 5-hydroxy-2-methylindole
To a -65° C. solution of 8.6 g (53.4 m mol) 5-methoxy-2-methyl indole in 110 mL of CH2Cl2 was added dropwise 30.4 g (117 m mol) of boron tribromide. The reaction was allowed to warm to room temperature and stirred for 30 minutes. After cooling the mixture to 5° C., 200 mL of 50% water/chloroform was cautiously added. The aqueous layer was separated and the pH adjusted to 5.8 with aqueous sodium hydroxide. Extracting the mixture twice with 100 mL of ethyl acetate, followed by drying (Na2SO4), filtering and concentrating provided 5.3 g of the product as a yellow solid, mp 124°-126° C. 1H NMR (60 MHz, 20% DMSO d6 /CDCl3) δ 8.05 (s, 1H, NH), 7.05 (d, J=8 Hz, 1H), 6.80 (d, J=2 Hz, 1H), 6.55 (dd, J=2, 8 Hz, 1H), 5.90 (broad s, 1H, indole CH), 2.40 (s, 3H).

reactant | 5-methoxy-2-methyl indole | 8.6 g | COC=1C=C2C=C(NC2=CC1)C | C10H11NO
reactant | boron tribromide | 30.4 g | B(Br)(Br)Br | BBr3
reactant | water chloroform | 200 mL | O.C(Cl)(Cl)Cl
solvent | CH2Cl2 | 110 mL | C(Cl)Cl | CH2Cl2
product | 5-hydroxy-2-methylindole | 5.3 g | OC=1C=C2C=C(NC2=CC1)C | C9H9NO
